US06075041
A mixture of 3-phthalimido-3-(4-benzyloxy-3-methoxyphenyl)propionic acid (1.00 g, 2.32 mmol), carbonyldiimidazole (0.406 g, 2.50 mmol) and a catalytic amount of dimethylaminopyridine in 20 mL of dry tetrahydrofuran under nitrogen was stirred for 1 hour. To the reaction solution was then added 0.25 mL of concentrated ammonium hydroxide. After 15 minutes, the reaction mixture was concentrated in vacuo to an oil which was diluted with 20 mL of water and stirred overnight. The resulting slurry was filtered and the solid dried to afford 0.645 g (65%) of 3-phthalimido-,3-(4-benzyloxy-3-methoxyphenyl)propionamide as a white powder: 1H NMR (DMSO-d6)δ 7.84 (m, 4H, Ar), 7.60-7.25 (m, 5H), 7.53 (br s, 1H, CONH), 7.15-6.8 (m, 4H), 5.67 (t, 1H, J=7.8 Hz), 5.04 (s, 2H, OCH2), 3.75 (s, 3H, OMe), 3.19 (d, 2H, J=9, 16.5 Hz);13C NMR (DMSO-d6)8 171.1, 167.6,148.8, 147.2, 137.0, 134.5, 132.0, 131.2, 128.3, 127.7, 127.6, 123.0, 119.3, 113.2, 111.4, 69.8, 55.5, 50.3, 36.9. Anal. Calcd for C25H22N2O5. Theory: C, 69.76; H, 5.15; N, 6.51. Found: C, 69.54; H, 5.13; N, 6.28.

reactant | 3-phthalimido-3-(4-benzyloxy-3-methoxyphenyl)propionic acid | 2.32 mmol, 1.00 g | C1(C=2C(C(N1C(CC(=O)O)C1=CC(=C(C=C1)OCC1=CC=CC=C1)OC)=O)=CC=CC2)=O | C25H21NO6
reactant | carbonyldiimidazole | 2.50 mmol, 0.406 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | dimethylaminopyridine | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | ammonium hydroxide | 0.25 mL | [OH-].[NH4+]
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 3-(4-benzyloxy-3-methoxyphenyl)propionamide | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)CCC(=O)N)OC | C17H19NO3
